US04431653
A mixture of 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]piperidine (2.3 g, 0.0105 M) and dimethylformamide dimethylacetal (20 ml) was heated at 100° C. for 6 hrs. Removal of the excess of dimethylformamide dimethylacetal gave 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde dimethylacetal. A solution of this piperidine carboxaldehyde dimethylacetal in methylene chloride (10 ml) was added to a mixture of 6-aminopenicillanic acid (2.16, 0.01 M) and diisopropyl ethylamine (1.15 ml) in methylene chloride (50 ml) at 0° C. The reaction was stirred at 0° C. for 1 hr and room temperature for 3 hrs. The solvent was removed and water (50 ml) was added. After being washed with ether, the aqueous solution, acidified to pH 3, was purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta)]-3,3-dimethyl-6-[[[4-[ 3-(2-methyl-1H-imidazol-1-yl)propyl]-1-piperidinyl]methylene]amino]-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid 1.15 molar hydrochloride 1.75 molar hydrate (1.76 g, 33% yield).

reactant | 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]piperidine | 0.0105 M, 2.3 g | CC=1N(C=CN1)CCCC1CCNCC1 | C12H21N3
reactant | dimethylformamide dimethylacetal | 20 ml | COC(N(C)C)OC | C5H13NO2
product | 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde dimethylacetal | COC(N1CCC(CC1)CCCN1C(=NC=C1)C)OC | C15H27N3O2
